US04283420
(2) Methyl 1-(1'-chlorovinyl)-1-cyclohexylcarboxylate
23.5 g of methyl 1-acetyl-1-cyclohexyl-carboxylate dissolved in 100 cm3 of dry methylene chloride were heated under reflux for 6 hours in the presence of 30 g of phosphorus pentachloride. The mixture was then poured on to ice. The methylene chloride solution was separated off and washed with water and then with bicarbonate. After drying over magnesium sulphate, the solution was concentrated and methyl 1-(1'-chlorovinyl)-1-cyclohexyl-carboxylate was then distilled; this product was in the form of a colourless liquid.

reactant | methyl 1-acetyl-1-cyclohexyl-carboxylate | 23.5 g | C(C)(=O)C1(CCCCC1)C(=O)OC | C10H16O3
reactant | phosphorus pentachloride | 30 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 100 cm3 | C(Cl)Cl | CH2Cl2
product | Methyl 1-(1'-chlorovinyl)-1-cyclohexylcarboxylate | ClC(=C)C1(CCCCC1)C(=O)OC | C10H15ClO2
